US04015009
Following the procedure of Example 1, a mixture of 8.48 g. (0.04 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one, 4.8 g. (0.04 m.) of p-methylbenzaldehyde in 100 ml. of chloroform and 20 drops of piperidine is refluxed for 10 hours, concentrated and filtered to yield 5-acetyl-4-hydroxy-3-(p-methylcinnamoyl)-2H-pyran-2,6(3H)-dione, m.p. 188°-190° C.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | p-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
catalyst | piperidine | 20 drops | N1CCCCC1 | C5H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-acetyl-4-hydroxy-3-(p-methylcinnamoyl)-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)C(C=CC1=CC=C(C=C1)C)=O)O | C17H14O6
